US04127720
7-Hydroxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid (acid hydrolysis of corresponding ester)
A suspension of ethyl 7-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (240 mg., 0.83 mmole) in a mixture of acetic (4 ml.) and 37% hydrochloric (2 ml.) acids was refluxed for 2 hours. The mixture was flash evaporated to dryness, diluted with water and the precipitated solid collected and crystallized from acetic acid with charcoal treatment to give straw needles of the title acid, m.p. 273°-276°.

reactant | ethyl 7-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 0.83 mmole, 240 mg | COC1=CN2C(C3=CC=CC=C13)=NC=C(C2=O)C(=O)OCC | C16H14N2O4
solvent | acetic | 4 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 7-Hydroxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid | OC1=CN2C(C3=CC=CC=C13)=NC=C(C2=O)C(=O)O | C13H8N2O4
